US04153699
Following the procedure of Example 1 but starting with 5-amino-3-methylisoquinoline (6.0 g) and (S)-3-methylthio-9,9a-dihydrothiazolo[3,4-a]indolium iodide (12.0 g), (S)-3-[(3-methylisoquinol-5-yl)imino]-9,9a-dihydrothiazolo[3,4-a]indole (8.3 g) is obtained, after recrystallisation from ethanol, in the form of white crystals melting at 182° C. [α]D20 =-92.5±1.5° (c=1, chloroform)

reactant | 5-amino-3-methylisoquinoline | 6.0 g | NC1=C2C=C(N=CC2=CC=C1)C | C10H10N2
reactant | (S)-3-methylthio-9,9a-dihydrothiazolo[3,4-a]indolium iodide | 12.0 g | [I-].CSC=1SC[C@H]2[N+]1C=1C=CC=CC1C2
product | (S)-3-[(3-methylisoquinol-5-yl)imino]-9,9a-dihydrothiazolo[3,4-a]indole | 8.3 g | CC=1N=CC2=CC=CC(=C2C1)N=C1SC[C@H]2N1C=1C=CC=CC1C2 | C20H17N3S
